US08604019B2
To a cooled solution of methyl 2-sulfanylbenzoate (200 g, 1.19 mol) in tetrahydrofuran and N,N-dimethylformamide (2 L, V/V=1/1) was added 2-chloroethanamine hydrochloride (138 g, 1.19 mol) at 0° C. followed by sodium hydride (143 g, 3.57 mol, 60% in mineral oil) in portions. After being stirred at room temperature overnight, the reaction mixture was poured into ice-water and extracted with ethyl acetate (900 mL×4). The organic layers were combined, washed with brine (900 mL×3), dried over sodium sulfate and concentrated in vacuo. The residue was stirred in a mixture solution of ethyl acetate and petroleum ether (300 mL, V/V=1/1) for 1 hour. The solid was collected by filtration and dried in vacuo to afford 100 g of 3,4-dihydro-1,4-benzothiazepin-5(2H)-one (yield was 47%).

reactant | methyl 2-sulfanylbenzoate | 1.19 mol, 200 g | SC1=C(C(=O)OC)C=CC=C1 | C8H8O2S
reactant | 2-chloroethanamine hydrochloride | 1.19 mol, 138 g | Cl.ClCCN
reactant | sodium hydride | 3.57 mol, 143 g | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 2 L | CN(C=O)C | C3H7NO
product | 3,4-dihydro-1,4-benzothiazepin-5(2H)-one | 100 g, yield was 47% | S1CCNC(C2=C1C=CC=C2)=O | C9H9NOS
